US06599902B2
Synthesis of 3-[1-{4-[2-(4-Cyclopropyl-piperazin-1-yl)-2-oxo-ethyl]-3,5-dimethyl-1H-pyrrol-2-yl}-meth-(Z)-ylidene]-5-(2,6-dichloro-phenylmethanesulfonyl)-1,3-dihydro-indol-2-one
A mixture of {5-[5-(2,6-dichloro-phenylmethanesulfonyl)-2-oxo-1,2-dihydro-indol-(3Z)-ylidenemethyl]-2,4-dimethyl-1H-pyrrol-3-yl}-acetic acid (208 mg, 0.4 mmol), HOBt (54 mg, 1 eq.) and EDAC (153 mg, 2 eq.) in DMF (1.5 mL) was stirred at rt for 30 mins. To the mixture was added 1-cyclopropyl-piperazine (101 mg, 2 eq.) in DMF (1.5 mL). After stirring at rt for overnight, the precipitate was collected by vacuum filtration, washed with water, sodium bicarbonate and ether to give 108 mg (43%) of the titled compound.

reactant | {5-[5-(2,6-dichloro-phenylmethanesulfonyl)-2-oxo-1,2-dihydro-indol-(3Z)-ylidenemethyl]-2,4-dimethyl-1H-pyrrol-3-yl}-acetic acid | 0.4 mmol, 208 mg | ClC1=C(C(=CC=C1)Cl)CS(=O)(=O)C=1C=C2/C(/C(NC2=CC1)=O)=C/C1=C(C(=C(N1)C)CC(=O)O)C | C24H20Cl2N2O5S
reactant | HOBt | 54 mg, 1 eq. | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDAC | 153 mg, 2 eq. | CCN=C=NCCCN(C)C | C8H17N3
reactant | 1-cyclopropyl-piperazine | 101 mg, 2 eq. | C1(CC1)N1CCNCC1 | C7H14N2
solvent | DMF | 1.5 mL | CN(C)C=O | C3H7NO
solvent | DMF | 1.5 mL | CN(C)C=O | C3H7NO
product | 3-[1-{4-[2-(4-Cyclopropyl-piperazin-1-yl)-2-oxo-ethyl]-3,5-dimethyl-1H-pyrrol-2-yl}-meth-(Z)-ylidene]-5-(2,6-dichloro-phenylmethanesulfonyl)-1,3-dihydro-indol-2-one | 108 mg, 43% | C1(CC1)N1CCN(CC1)C(CC=1C(=C(NC1C)\C=C\1/C(NC2=CC=C(C=C12)S(=O)(=O)CC1=C(C=CC=C1Cl)Cl)=O)C)=O | C31H32Cl2N4O4S
